US07265144B2
Step 2: Preparation of 4-ethyl-3-(4-fluorophenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine
To a mixture of wet palladium on carbon (10 wt %, 10 mg) in EtOH (5 mL) was added 3-(4-fluorophenyl)-1-(2-methylphenyl)-4-vinyl-1H-pyrazol-5-amine (87 mg, 0.30 mmol) in EtOH (5 mL). The reaction was mixed on a Parr shaker under H2 atmosphere (55 psi) for 16 h. The palladium catalyst was filtered through Celite® and rinsed with EtOH (3×20 mL). The solution was concentrated under reduced pressure to afford the title compound (68 mg, 77%) containing trace impurities. This material was used in subsequent reactions without further purification: ES-MS m/z 296.2 (MH+); HPLC RT (min) 2.65.

reactant | 3-(4-fluorophenyl)-1-(2-methylphenyl)-4-vinyl-1H-pyrazol-5-amine | 0.30 mmol, 87 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C=C)N)C1=C(C=CC=C1)C | C18H16FN3
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-ethyl-3-(4-fluorophenyl)-1-(2-methylphenyl)-1H-pyrazol-5-amine | 68 mg, 77% | C(C)C=1C(=NN(C1N)C1=C(C=CC=C1)C)C1=CC=C(C=C1)F | C18H18FN3
